US04978670
1-[[[[1-(3-pyridinyl)ethylidene]hydrazino]carbonyl]-methyl]pyridinium chloride. Compound 2
To 5.63 gm (0.03 mole) of Girard's Reagent P in 50 ml of anhydrous methanol is added 3.63 gm (0.03 mole) of 3-acetylpyridine. The solution is refluxed 3 hr and cooled. The solvent is evaporated The residue is slurried in 100 ml of anhydrous ether and filtered. The crude product is recrystallized from absolute ethanol to afford 6.18 gm (71%) of the title compound; mp 237.2° (decomp).

reactant | Girard's Reagent P | 0.03 mole, 5.63 gm | C1=CC=[N+](C=C1)CC(=O)NN.[Cl-]
reactant | 3-acetylpyridine | 0.03 mole, 3.63 gm | C(C)(=O)C=1C=NC=CC1 | C7H7NO
solvent | methanol | 50 ml | CO | CH4O
product | 1-[[[[1-(3-pyridinyl)ethylidene]hydrazino]carbonyl]-methyl]pyridinium chloride | 6.18 gm, 71% | [Cl-].N1=CC(=CC=C1)C(C)=NNC(=O)C[N+]1=CC=CC=C1 | InChI=1S/C14H14N4O.ClH/c1-12(13-6-5-7-15-10-13)16-17-14(19)11-18-8-3-2-4-9-18;/h2-10H,11H2,1H3;1H
